US07557110B2
Synthesis of {5-[(trans-4-aminocyclohexyl)amino]-3-iodo(pyrazolo[1,5-a]pyrimidin-7-yl)}[(3-chlorophenyl)methyl]amine (Compound NO: 297).
To a stirred solution of {5-[(trans-4-aminocyclohexyl)amino](pyrazolo[1,5-a]pyrimidin-7-yl)}[(3-chlorophenyl)methyl]amine (41.8 mg) in CH2Cl2 (565 μL) was added ICl (169 μL, 1.0 M in CH2Cl2), and the resulting mixture was stirred at room temperature for 4 h in the dark. The reaction was quenched with saturated aqueous Na2S2O3. The resulting precipitate was collected by filtration. After extraction of filtrate by CH2Cl2, the combined organic layer was washed with saturated aqueous NaCl. To this solution, the precipitate collected above was dissolved, and the solvent was removed in vacuo. The residue was purified by preparative HPLC, and the fraction contained the title compound was basified (pH 9) with saturated aqueous NaHCO3. After extraction with CH2Cl2, combined organic layer was dried over Na2SO4. The solvent was removed in vacuo, and the title compound (23.11 mg, 41% yield) was obtained as a white solid. The 1H-NMR, HPLC retention time and ESI/MS data for this compound are shown below.

reactant | {5-[(trans-4-aminocyclohexyl)amino](pyrazolo[1,5-a]pyrimidin-7-yl)}[(3-chlorophenyl)methyl]amine | 41.8 mg | N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1)NCC1=CC(=CC=C1)Cl)N=CC2 | C19H23ClN6
reactant | ICl | 1.0 M, 169 μL | ICl | ClI
solvent | CH2Cl2 | 565 μL | C(Cl)Cl | CH2Cl2
product | {5-[(trans-4-aminocyclohexyl)amino]-3-iodo(pyrazolo[1,5-a]pyrimidin-7-yl)}[(3-chlorophenyl)methyl]amine | 23.11 mg, 41% yield | N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1)NCC1=CC(=CC=C1)Cl)N=CC2I | C19H22ClIN6
